US07425551B2
(R)—N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-N′-(2,2,2-trifluoro-ethyl)-malonamide
Using (S)-7-amino-5-(2-benzyloxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and (R)-2-hydroxy-2-methyl-N-(2,2,2-trifluoro-ethyl)-malonamic acid, the title compound was prepared in the same manner as described for example 1c. Colorless, amorphous solid (96%). MS: m/e=556(M+H+).

reactant | (S)-7-amino-5-(2-benzyloxy-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2 | C23H22N2O2
reactant | (R)-2-hydroxy-2-methyl-N-(2,2,2-trifluoro-ethyl)-malonamic acid | O[C@@](C(=O)O)(C(=O)NCC(F)(F)F)C | C6H8F3NO4
product | (R)—N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-N′-(2,2,2-trifluoro-ethyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC([C@](C(=O)NCC(F)(F)F)(C)O)=O)C=CC=C3)C=CC=C2 | C29H28F3N3O5
